US08017602B2
Step i) tert-Butyl 3-(3-(1-ethyl-1H-pyrazol-4-yl)phenethoxy)propanoate
The subtitled compound (0.64 g) was prepared from tert-butyl 3-(3-bromophenethoxy)propanoate [Preparation 3, Step i)] and 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole using a similar method to that described in Example 18, Step i). MS[M+H-C4H8]+=289 (MultiMode+) 1H NMR (300 MHz, CDCl3) δ 7.76 (s, 1H), 7.65 (s, 1H), 7.35-7.23 (m, 3H), 7.07 (d, J=7.5 Hz, 1H), 4.21 (q, J=7.2 Hz, 2H), 3.70 (t, J=6.4 Hz, 2H), 3.68 (t, J=7.3 Hz, 2H), 2.89 (t, J=7.1 Hz, 2H), 2.49 (t, J=6.5 Hz, 2H), 1.53 (t, J=7.3 Hz, 3H), 1.43 (s, 9H)

reactant | tert-butyl 3-(3-bromophenethoxy)propanoate | BrC=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C15H21BrO3
reactant | 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H19BN2O2
product | tert-Butyl 3-(3-(1-ethyl-1H-pyrazol-4-yl)phenethoxy)propanoate | 0.64 g | C(C)N1N=CC(=C1)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C20H28N2O3
